* C:\Users\PC\Documents\ITBA\2020\1er cuatrimestre\Electro IV\Github posta\e4-tp2\simulacion\ej2\e4-tp2-ej2-4.asc
V1 0 N006 0
S1 N005 N011 0 N006 MYSW
D1 N001 Vout MUR460
D2 N002 N003 LUW-W5AP
D3 N003 N004 LUW-W5AP
D4 N004 N005 LUW-W5AP
D5 N005 N009 LUW-W5AP
D6 N009 N011 LUW-W5AP
D7 Vout N002 LUW-W5AP
R1 N008 N007 22
R2 N011 0 0.1
R3 N016 N015 7k
R4 N010 0 0.1
R5 Vcomp N012 10k
R6 N013 N014 11.5k
R7 0 N014 1k
R8 N013 VFB 10k
C1 Vout 0 470µ
V2 Vcc 0 12
L1 N001 Vcc 150µ
M1 N001 N008 N010 N010 IRF530
XU1 N014 N011 N013 opamp Aol=100K GBW=10Meg Slew=100Meg
XU2 Vcomp VFB N010 N016 0 N007 Vcc N015 LT1241
C2 N016 0 1n
C3 VFB N012 100n
.model D D
.lib C:\Users\PC\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\PC\Documents\LTspiceXVII\lib\cmp\standard.mos
.model MYSW SW(Ron=0.1 Roff=1Meg Vt=1 Vh=-0.4)
.lib opamp.sub
.ic I(L1)=4.2 V(Vout)=21 V(Vcomp)=2.4
.tran 0 70m 0 10n
.lib LT1241.sub
.backanno
.end
